US08492582B2
A 1 mol/L aqueous solution of sodium hydroxide (0.67 mL) was added to a dioxane (3.0 mL) solution of the obtained methyl 4-(2-((ethyl)(methyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate (0.10 g) at room temperature, followed by stirring at the same temperature for 1 hour and then at 55° C. for 1 hour and 30 minutes. After cooling the reaction mixture to room temperature and adjusting the pH to 7.3 with 1 mol/L hydrochloric acid, the solvent was evaporated under reduced pressure. Water was added to the obtained residue, and the solid substance was collected by filtration. Ethanol (1.5 mL) and a 1 mol/L aqueous solution of sodium hydroxide (0.091 mL) were sequentially added to the obtained solid substance, followed by stirring at room temperature for 1 hour. Then, the solvent was evaporated under reduced pressure, and water was added to the obtained residue. The solid substance was collected by filtration to obtain 2.5 mg of sodium 4-(2-((ethyl)(methyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate as a yellow solid.

reactant | sodium hydroxide | 0.67 mL | [OH-].[Na+]
reactant | methyl 4-(2-((ethyl)(methyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.10 g | C(C)N(C1=C(C=CC=C1)C1=CC(=C(C(=O)OC)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)C | C29H27N3O3
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | sodium 4-(2-((ethyl)(methyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 2.5 mg | C(C)N(C1=C(C=CC=C1)C1=CC(=C(C(=O)[O-])C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)C.[Na+] | InChI=1S/C28H25N3O3.Na/c1-3-31(2)26-12-8-7-11-23(26)20-13-14-24(28(33)34)25(16-20)30-27(32)22-15-21(17-29-18-22)19-9-5-4-6-10-19;/h4-18H,3H2,1-2H3,(H,30,32)(H,33,34);/q;+1/p-1
